US09422287B2
3-Bromo-8H-8,12b-diazabenzo[a]aceanthrylene
Under a protective gas, 25 g (72 mmol) of 2-(6-bromo-1-fluorocarbazol-9-yl)phenylamine are dissolved in 200 ml of DMF, 2.8 g (72 mmol) of NaH (60% in oil) are added at room temperature, and the mixture is heated under reflux for 6 h. The mixture is allowed to come to room temperature over the course of 1 h, the solvent is then removed, and the residue is purified by chromatography. The yield is 19 g (54 mmol), corresponding to 78% of theory.

reactant | 2-(6-bromo-1-fluorocarbazol-9-yl)phenylamine | 72 mmol, 25 g | BrC=1C=C2C=3C=CC=C(C3N(C2=CC1)C1=C(C=CC=C1)N)F | C18H12BrFN2
reactant | NaH | 72 mmol, 2.8 g | [H-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 3-Bromo-8H-8,12b-diazabenzo[a]aceanthrylene | BrC1=CC2=C(N3C4=CC=CC=C4NC=4C=CC=C2C34)C=C1 | C18H11BrN2
